US05807883
Under argon atmosphere, 0.85 ml of ethyl acrylate and 1.94 g of potassium carbonate were added to 2.00 g of 3-amino-2,3-dihydro-6-methoxy-2-oxo-1-pentyl-1H-indole hydrochloride dissolved in 40 ml of dimethyl sulfoxide, the mixture was stirred at room temperature for 3 hours. The reaction mixture was extracted with ethyl acetate, and the extract was washed and dried. Insolubles were removed by filtration, and the filtrate was concentrated. The residue was purified by silica gel column chromatography [chloroform-ethyl acetate (1:1)] to afford 1.36 g of ethyl 3-[3-amino-2,3-dihydro-6-methoxy-2-oxo-1-pentyl-1H-indol-3-yl]-propionate as a pale yellow oily product.

reactant | ethyl acrylate | 0.85 ml | C(C=C)(=O)OCC | C5H8O2
reactant | potassium carbonate | 1.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-amino-2,3-dihydro-6-methoxy-2-oxo-1-pentyl-1H-indole hydrochloride | 2.00 g | Cl.NC1C(N(C2=CC(=CC=C12)OC)CCCCC)=O
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | ethyl 3-[3-amino-2,3-dihydro-6-methoxy-2-oxo-1-pentyl-1H-indol-3-yl]-propionate | 1.36 g | NC1(C(N(C2=CC(=CC=C12)OC)CCCCC)=O)CCC(=O)OCC | C19H28N2O4
